US05811512
(a). 1-O-tert-Butyldimethylsilyl-2-(3-indolyl)ethanol
A solution of tryptophol (5.0 g, 31 mmol) in DMF (30 ml) was treated with imidazole (4.64 g, 68 mmol) and cooled to 0° C. tert-Butyldimethylsilyl chloride (5.14 g, 34.1 mmol) was added and the mixture was stirred at room temperature for 16 h. The mixture was then diluted with ethyl acetate (100 ml) and washed with water (2×100 ml) and the aqueous solutions were extracted with ethyl acetate (200 ml). The combined organic layers were dried over sodium sulfate, filtered, and concentrated in vacuo. Flash chromatography (30% ether/petroleum ether) yielded the title compound (8.43 g, 99% yield) as a colorless oil: IR (CCl4) 3910 (s), 3060 (w), 2960 (s), 2930 (s), 2850 (s), 1450 (m), 1370 (w), 1260 (s), 1100 (s), 900 (m), 840 (s), 780 (s), 750 (s) cm-1 ; 1H NMR (500 MHz, CDCl3) δ8.26 (br s, 1 H), 7.99 (d, J=7.8 Hz, 1 H), 7.64-7.50 (m, 4 H), 4.28 (t, J=7.3 Hz, 2 H), 3.38 (t, J=7.3 Hz, 2 H), 1.29 (s, 9 H), -0.43 (s, 6 H) ; 13C NMR (125 MHz, CDCl3) δ136.08, 127.62, 122.08, 121.75, 119.12, 118.79, 112.84, 111.04, 63.89, 28.98, 25.98, 18.34, -5.29; high resolution mass spectrum (Cl, NH3) m/z 276.1750 [(M+H)+ ; calcd for C16H25 NOSi: 276.1783].

reactant | tryptophol | 31 mmol, 5.0 g | C=1C=CC2=C(C1)C(=CN2)CCO | C10H11NO
reactant | imidazole | 68 mmol, 4.64 g | N1C=NC=C1 | C3H4N2
reactant | tert-Butyldimethylsilyl chloride | 34.1 mmol, 5.14 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 1-O-tert-Butyldimethylsilyl-2-(3-indolyl)ethanol | 8.43 g, 99% yield | [Si](C)(C)(C(C)(C)C)OCCC1=CNC2=CC=CC=C12 | C16H25NOSi
